US05366988
Synthesis of 1-(O-isopropyl-3-isopentylbenzohydroximoyl)-1H-1,2,4-triazole (Compound 9)
To 100 ml of N,N-dimethylformamide was added 1.5 g (5.6 mmol) of O-isopropyl-3-isopentylbenzohydroximoyl chloride, 0.8 g (11.6 mmol) of 1,2,4-triazole, and 1.6 g (11.6 mmol) of potassium carbonate. The mixture was stirred at 120° C. for 3 hours to complete the reaction. The reaction mixture was allowed to sit and cool naturally to room temperature. The cooled reaction mixture was poured into water and extracted with ethyl acetate. After being washed with water, the organic layer was dried over anhydrous magnesium sulfate. The solvent in the organic layer was then removed under reduced pressure. The residue was purified by column chromatography, thus obtaining 1.2 g (yield: 71%) of the desired product having a refractive index of [nD20 ] 1.5317 at 20° C.

reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | O-isopropyl-3-isopentylbenzohydroximoyl chloride | 5.6 mmol, 1.5 g | C(C)(C)ON=C(C1=CC(=CC=C1)CCC(C)C)Cl | C15H22ClNO
reactant | 1,2,4-triazole | 11.6 mmol, 0.8 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 11.6 mmol, 1.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 1-(O-isopropyl-3-isopentylbenzohydroximoyl)-1H-1,2,4-triazole | 1.2 g, yield: 71% | C(C)(C)ON=C(C1=CC(=CC=C1)CCC(C)C)N1N=CN=C1 | C17H24N4O
